US06891066B2
The product of Example 12, 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-butynyl)anilino]-N-(2-hydroxyethoxy)benzamide was hydrogenated in absolute ethanol in the presence of 5% Pd/C by the general procedure of Example 1, Step D. The resulting crude solid was purified by filtration through a plug of silica (MeOH as eluant) to give 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methylbutyl)anilino]-N-(2-hydroxyethoxy)benzamide (99%) as a cream foam (hygroscopic). 1H NMR [400 MHz, (CD3)2SO] δ 10.09 (br s, 1 H), 7.60-7.55 (m, 1 H), 7.03-6.91 (m, 2 H), 6.86 (dd, J=8.2, 1.4 Hz, 1 H), 6.71 (ddd, J=8.6, 8.6, 5.8 Hz, 1 H), 4.22 (br s, 1 H), 3.79 (t, J=4.9 Hz, 2 H), 3.55 (t, J=4.9 Hz, 2 H), 2.60-2.49 (m, 2 H), 1.65-1.59 (m, 2 H), 1.13 (s, 6 H). HRMS (EI+) calcd for C20H23F3N2O4 412.1610 (M+), found 412.1617.

reactant | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-butynyl)anilino]-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CC(C)(C)O)F | C20H19F3N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methylbutyl)anilino]-N-(2-hydroxyethoxy)benzamide | 99% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)CCC(C)(C)O)F | C20H23F3N2O4
